US07161032B2
In ethanol (150 ml) was dissolved 10.0 g (21 mmol) of bis[2-(benzyloxycarbonylamino)-2-methylpropyl]disulfide, and 11.21 g (63 mmol) of N-bromosuccinimide was added thereto in small portions with stirring. The reaction was carried out at room temperature for 2 hours, after which the reaction solution was made weakly basic with saturated aqueous sodium hydrogencarbonate solution and the ethanol was distilled off. Water was added to the residue, followed by three runs of extraction with ethyl acetate. The extract solution was washed three times with water and then once with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain 10.45 g (yield 83%) of ethyl 2-(benzyloxycarbonylamino)-2-methypropane-1-sulfinate.

reactant | bis[2-(benzyloxycarbonylamino)-2-methylpropyl]disulfide | 21 mmol, 10.0 g | C(C1=CC=CC=C1)OC(=O)NC(CSSCC(C)(C)NC(=O)OCC1=CC=CC=C1)(C)C | C24H32N2O4S2
reactant | N-bromosuccinimide | 63 mmol, 11.21 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 2-(benzyloxycarbonylamino)-2-methypropane-1-sulfinate | 10.45 g, yield 83% | C(C1=CC=CC=C1)OC(=O)NC(CS(=O)OCC)(C)C | C14H21NO4S
